US07153848B2
2,4,5-tribromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole
To a solution of 2,4,5-tribromoimidazole (3.05 g, 10 mmol) in anhydrous DMF (50 mL) was added powdered K2CO3 (19 g, 137 mmol), and the resulting suspension was stirred vigorously and treated dropwise with SEMCl (2.3 g, 13.8 mmol). The suspension was then stirred vigorously overnight. The solid was filtered off and washed with fresh DMF (20 mL). The combined filtrates were then evaporated under reduced pressure. Methylene chloride (30 mL) was then added and the solution washed with 0.1 N Na2CO3 (3×50 mL), dried (Na2SO4), filtered and evaporated to give a residue, which was passed through a silica gel pad (CH2Cl2) and evaporated to give 3.6 g (83%) of the title compound as a colorless oil. 1H NMR (500 MHz, CDCl3) δ 0.01 (s, 9H), 0.93 (t, 2H, J=8.0 Hz), 3.60 (t, 2H, J=8.0 Hz), 5.32 (s, 3H).

reactant | 2,4,5-tribromoimidazole | 10 mmol, 3.05 g | BrC=1NC(=C(N1)Br)Br | C3HBr3N2
reactant | K2CO3 | 137 mmol, 19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | SEMCl | 13.8 mmol, 2.3 g | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2,4,5-tribromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | 3.6 g, 83% | BrC=1N(C(=C(N1)Br)Br)COCC[Si](C)(C)C | C9H15Br3N2OSi
